US05808071
To a nitrogen-blanketed mixture of N-toluenesulfonyl-1,1-dimethyl-2-phenyl-ethylamine (8.30 g, 0.027 mol.) in dimethoxymethane (50 mL) was added boron trifluororo etherate (BF3 ·OEt2, 9.9 mL, 0.081 mol.). The mixture was stirred at room temperature for 12 hours while monitoring by gas chromatography. The reaction mixture was partitioned between ethyl acetate (100 mL) and water (100 mL), separated, and the organic layer is washed with saturated sodium bicarbonate (2×100 mL) and dried over sodium sulfate (Na2 SO4). The drying agent was filtered off and the filtrate was concentrated at 40°/50 torr to give 8.55 g of N-toluenesulfonyl-3,3-dimethyl-1,2,3,4-tetrahydroisoquinoline (yield=99%).

reactant | N-toluenesulfonyl-1,1-dimethyl-2-phenyl-ethylamine | 0.027 mol, 8.30 g | C=1(C(=CC=CC1)S(=O)(=O)NC(CC1=CC=CC=C1)(C)C)C | C17H21NO2S
reactant | boron | [B] | B
reactant | dimethoxymethane | 50 mL | COCOC | C3H8O2
product | N-toluenesulfonyl-3,3-dimethyl-1,2,3,4-tetrahydroisoquinoline | 8.55 g, yield=99% | C=1(C(=CC=CC1)S(=O)(=O)N1CC2=CC=CC=C2CC1(C)C)C | C18H21NO2S
